Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization ___

 
History of Present Illness:
Mr. ___ is a ___ with hypertension, OSA on cpap at 
home,
GERD, and paroxysmal atrial fibrillation (not on AC ___ patient
preference) who has been having ~1 month exertional chest
discomfort and palpitations, presented for stress echo on ___,
during which he went into AF w/ RVR with concerning ECG changes
and referred for urgent coronary angiography, found to have 100%
occlusion of the inferior lateral of the Diag and 50-60% 
stenosis
of mid segment RCA, now admitted to ___ for medical management. 


The patient has a long history of paroxysmal atrial 
fibrillation.
He is on atenolol 25mg daily (told to take an additional dose if
he feels palpitations per his cardiologist). Of note, the 
patient
is not on any anticoagulation for his a fib but is on full dose
aspirin; he did not want to be on any anticoagulation, as he was
afraid of the bleeding risks. 

At his baseline, Mr. ___ is a very active gentleman, playing
tennis three times per week and working parttime. For the past
several years, he has had intermittent pain in the ___ his
chest wall consistent with costochonditis. This is reproducible
on palpation, non-radiating, lasts ___, and occurs
randomly. He also notes chest discomfort when he is in cold
weather (usually ___ degrees F). He indicates that the
discomfort is less when he puts a scarf around his nose/mouth 
and
breaths in warm air. This resolves after 20 minutes. 

For the past month, however, he notes chest discomfort (but
emphasizes, not chest pain) that occurs when he plays tennis.
This develops as he starts to warmup. He has difficulty
describing the sensation but indicates that it feels like a 
chest
tightness and rates the discomfort as ___. It does not 
prevent
him from completing a match. He has no discomfort anywhere else.
Though he feels out of breath after a long rally, he is still
able to play at a high level and run around the court. The
discomfort subsides at the end of the match. Over the past 
month,
however, he has noticed two occasions where he felt palpitations
at the end of his tennis match when he sits down. Thinking that
he was in atrial fibrillation during these episodes, he decided
to see his PCP, ___ on ___. She recommended 
that
he get a stress echo, which he completed on ___. 

During his stress echo, his resting ECG was notable for normal
sinus rhythm with PVCs. The patient reached his target heart
rate. The test was stopped when the patient went into afib with
RVR (rates up to 150s) and developed ecg changes (2-3mm ST
depression in leads II, III, aVF and 2mm ST elevation in aVR and
aVL). He remained in afib but his ST changes improved in early
recovery, then subsequently worsened in mid recovery (1-1.5mm
downslopping ST depression in II, III, aVF and V3-V6, mild ST
elevation in leads aVR and aVL per report). For the patient's a
fib with RVR, the patient received 5mg IV Metoprolol (had taken
home atenolol in am), and rates decreased into ___ while in 
afib.
Given concern for LAD disease, he was transferred to ___ and
sent to cath lab. 

LHC notable for 100% occlusion of inferior lateral of the Diag
with collateral retrograde filling and 50-60% stenosis of mid
segment RCA. He was subsequently admitted to ___ for medical
management of his CAD.
 
Vitals on transfer:  
___ Temp: 97.7 PO BP: 116/78 HR: 61 RR: 18 O2 sat: 96% O2
delivery: ra 

On the floor, the patient confirmed the above story. While
discussing his symptoms, the patient spontaneously went into
sinus rhythm (did not feel this transition from afib).  

Denies any current chest pain, shortness of breath, orthopnea,
PND, ___ edema, syncope. On further review of systems, denies
fevers, chills, cough, abdominal pain, nausea, myalgias, 
dysuria,
changes in bowel movements. All of the other review of systems
were negative.  

 
Past Medical History:
- Hypertension  
- pAF
- GERD
- OSA on CPAP
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
___ 1735 Temp: 97.7 PO BP: 116/78 HR: 61 RR: 18 O2 sat: 96%
O2 delivery: ra 
GENERAL: Pleasant man, in no acute distress, cooperative
throughout exam.  
HEENT: Sclera anicteric. PERRL. Moist mucous membranes. 
NECK: No JVD.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops.  
LUNGS: Respiration is unlabored with no accessory muscle use. No
crackles, wheezes. No tenderness to palpation of chest wall. 
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: DP pulses 2+.

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.1 PO  127/72 R Lying  54  17  97%  Ra  
GENERAL: NAD, sitting up in bed  
HEENT: Sclera anicteric. PERRL. MMM. OP clear
NECK: No JVD.
CARDIAC: RRR. S1 + S2. No mrg  
LUNGS: CTAB, no wheezes/crackles, breathing comfortably on RA
ABDOMEN: SNTND, no rebound/guarding  
EXTREMITIES: WWP, no ___ edema  
SKIN: No significant skin lesions or rashes.  
PULSES: DP pulses 2+. 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:00PM BLOOD WBC-7.8 RBC-4.82 Hgb-14.1 Hct-42.1 MCV-87 
MCH-29.3 MCHC-33.5 RDW-14.2 RDWSD-45.0 Plt ___
___ 07:20PM BLOOD ___ PTT-29.7 ___
___ 03:00PM BLOOD Creat-1.0 K-3.9
___ 07:20PM BLOOD Glucose-119* UreaN-17 Creat-1.0 Na-143 
K-4.0 Cl-106 HCO3-25 AnGap-12
___ 07:20PM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:20PM BLOOD Calcium-9.2 Phos-3.4 Mg-2.0

PERTINENT IMAGING:
==================
___ Cardiac Cath:
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel and is normal. This vessel
bifurcates into the Left Anterior Descending and Left Circumflex 
systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is
a 30% stenosis in the proximal segment.
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
The Inferior lateral of the Diag, arising from the proximal 
segment, is a medium caliber vessel. There is
100% occlusion in the proximal segment. Left to left collaterals 
to distal segment are present.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel and is normal.
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is a 50 -
60% focal stenosis in the mid segment.

The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.

Findings
• Two vessel coronary artery disease.
• Unable to date chronicity of D1 branch occlusion. Etiology 
could be ruptured plaque but could
also be due to thromboembolism.

DISCHARGE LABS:
===============
___ 12:51AM BLOOD WBC-6.5 RBC-4.55* Hgb-13.4* Hct-40.0 
MCV-88 MCH-29.5 MCHC-33.5 RDW-14.2 RDWSD-45.3 Plt ___
___ 12:51AM BLOOD ___ PTT-30.1 ___
___ 12:51AM BLOOD Glucose-90 UreaN-19 Creat-1.1 Na-142 
K-4.2 Cl-104 HCO3-28 AnGap-10
___ 12:51AM BLOOD Calcium-8.8 Phos-3.9 Mg-2.1
___ 12:51AM BLOOD CK-MB-2 cTropnT-<0.___ with hypertension, OSA on CPAP, and paroxysmal atrial 
fibrillation (not on AC) who underwent stress echo on ___, 
found to be in afib with RVR with ECG changes, s/p LHC notable 
for 100% occlusion of inferior lateral of the diag and 50-60% 
stenosis of mid segment RCA, possibly due to lack of 
anticoagulation, started on apixaban.

CORONARIES: 30% stenosis in proximal LAD, 100% occlusion in
inferior lateral of the Diag, 50-60% stenosis in mid RCA
PUMP: 55-60% (stress echo ___
RHYTHM: currently in sinus

============== 
ACTIVE ISSUES: 
============== 

# Stable Angina: Pt w/ exercise associated chest discomfort. 
Underwent cath ___ found to have 100% occlusion of the inferior 
lateral Diag. Could be ___ atherosclerosis or cardioembolic ___ 
to lack of anticoagulation while in afib). His intermittent 
exertional chest discomfort is most consistent with stable
angina. TTE ___ demonstrated normal EF. Troponin negative x2. 
Pt discharged on aspirin 81 mg QD, atorvastatin 20 mg QHS. 
Continued atenolol 25 mg QD.

# Paroxysmal atrial fibrillation: Converted to SR, episode of 
afib on telemetry overnight. Continued atenolol 25 mg QD. 
Started apixaban 5 mg BID.

===============
CHRONIC ISSUES: 
===============

# HTN: BPs 120-130s during admission. Continued losartan 75 mg 
QD.

# GERD: Continued ranitidine 150 mg QD

# Supplements: Continued ferrous sulfate 325 mg QD, multivitamin 
QD, ascorbic acid ___ mg QD

TRANSITIONAL ISSUES:
====================
[ ] Consider ongoing need for aspirin while taking apixaban
[ ] Discuss with patient switching to AC with lower co-pay (pt 
okay with $80 co-pay upon discharge)
[ ] R wrist: not weight bearing for 4D, <10 lbs for 2 weeks
[ ] Consider cardioversion if ongoing afib

# CODE: Presumed FULL
# CONTACT: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. melatonin 2 mg oral QHS 
2. Atenolol 25 mg PO DAILY 
3. Losartan Potassium 75 mg PO DAILY 
4. plant ___ 450 mg oral DAILY 
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. Ranitidine 150 mg PO DAILY 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Ascorbic Acid ___ mg PO DAILY 
9. Lactobacillus rhamnosus GG 10 billion cell oral DAILY 
10. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Ascorbic Acid ___ mg PO DAILY  
5.  Atenolol 25 mg PO DAILY  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Lactobacillus rhamnosus GG 10 billion cell oral DAILY  
8.  Losartan Potassium 75 mg PO DAILY  
9.  melatonin 2 mg oral QHS  
10.  Multivitamins W/minerals 1 TAB PO DAILY  
11.  plant ___ 450 mg oral DAILY  
12.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Stable Angina
Atrial Fibrillation

SECONDARY DIAGNOSIS
===================
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure to be part of your care.

You presented to the hospital with chest pain/difficulty 
breathing while exercising. You were found to have an occlusion 
of one of the smaller vessels supplying your heart. This could 
either be due to a clot precipitated by your atrial fibrillation 
or due to underlying coronary artery disease. 

You were started on a blood thinning medication called apixaban 
which you should take ongoing: 5 mg twice a day. This medication 
will make you bleed more easily thus if you experience any 
symptoms of bleeding from your gastrointestinal tract or if you 
hit your head then please seek medical attention. 

If you experience any worsening chest pain, difficulty breathing 
then please seek medical attention. 

We wish you the best,
your ___ team 
 
Followup Instructions:
___